US07008949B2
Step 2: Preparation of 2-(2-diethylamino-5-nitropyrimidin-4-ylamino)-3-(4-hydroxyphenyl)propionic acid, t-butyl ester.
To a solution of 2-amino-3-(4-hydroxyphenyl)propionic acid, (30.6 g, 0.129 mol) in THF (250 mL) at −10° C. was added 2,4-Dichloro-5-nitropyrimidine (25 g, 0.129 mol), keeping the temperature below 5° C. during the addition. Once the addition was complete, N,N-diisopropylethylamine (33.7 mL, 0.194 mol) was added dropwise. After stirring for 1 h at −10° C., diethylamine (66.73 mL, 0.645 mol) was added slowly, and then the reaction mixture was warmed to room temperature overnight. The reaction mixture was diluted with diethyl ether (500 mL), and the organic layer was washed with 0.2 N citric acid (3×150 mL), water (1×150 mL), and 10% K2CO3 (3×150 mL). The organic phase was dried (Na2SO4), filtered, and concentrated in vacuo to yield a yellow residue. The residue was purified by flash chromatography (20% EtOAc/hexanes on silica gel) to yield 37.39 g (67%) the title compound as a yellow foam. Rf=0.21 (25% EtOAc/hexanes on silica gel).

reactant | 2-amino-3-(4-hydroxyphenyl)propionic acid | 0.129 mol, 30.6 g | NC(C(=O)O)CC1=CC=C(C=C1)O | C9H11NO3
reactant | 2,4-Dichloro-5-nitropyrimidine | 0.129 mol, 25 g | ClC1=NC=C(C(=N1)Cl)[N+](=O)[O-] | C4HCl2N3O2
reactant | N,N-diisopropylethylamine | 0.194 mol, 33.7 mL | C(C)(C)N(C(C)C)CC | C8H19N
reactant | diethylamine | 0.645 mol, 66.73 mL | C(C)NCC | C4H11N
reactant | THF | 250 mL | C1CCOC1 | C4H8O
solvent | diethyl ether | 500 mL | C(C)OCC | C4H10O
product | 2-(2-diethylamino-5-nitropyrimidin-4-ylamino)-3-(4-hydroxyphenyl)propionic acid, t-butyl ester | 37.39 g, 67% | C(C)N(C1=NC=C(C(=N1)NC(C(=O)OC(C)(C)C)CC1=CC=C(C=C1)O)[N+](=O)[O-])CC | C21H29N5O5
